US08431695B2
Preparation of 2-(4-{4-amino-5-[3-amino-2-(2-fluorobenzyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidin-1-yl)-N,N-dimethylacetamide
To a suspension of 5-[3-amino-2-(2-fluorobenzyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (0.1 g, 0.22 mmol) in THF (2 mL) was added 2-chloro-N,N-dimethylacetamide (0.024 g, 0.2 mmol) and DIEA (0.11 g, 0.88 mmol). The mixture was stirred at room temperature for 18 h, diluted with methanol, and concentrated. The crude product was purified by HPLC (10 to 90% CH3CN). 1H NMR (400 MHz, CD2Cl2) δ 7.87 (s, 1 H) 7.58 (d, 1 H) 7.11-7.35 (m, 5 H) 7.01 (d, 1 H) 6.55 (s, 1 H) 5.50-5.55 (m, 4 H) 4.25 (s, 2 H) 2.90-3.30 (m, 11 H) 2.30 (dt, 2 H) 2.10 (d, 2 H) 1.83 (dt, 2 H). LC-MS [M+H]+=542.3, RT=0.31 min.

reactant | 5-[3-amino-2-(2-fluorobenzyl)-2H-indazol-6-yl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.22 mmol, 0.1 g | NC=1N(N=C2C=C(C=CC12)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2)CC2=C(C=CC=C2)F | C25H25FN8
reactant | 2-chloro-N,N-dimethylacetamide | 0.2 mmol, 0.024 g | ClCC(=O)N(C)C | C4H8ClNO
reactant | DIEA | 0.88 mmol, 0.11 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-(4-{4-amino-5-[3-amino-2-(2-fluorobenzyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidin-1-yl)-N,N-dimethylacetamide | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)CC(=O)N(C)C)C=2C=CC1=C(N(N=C1C2)CC2=C(C=CC=C2)F)N | C29H32FN9O
